US08614215B2
Intermediate 81: 4-[(4-Fluoropiperidin-1-yl)carbonyl]benzenesulfonamide
To a solution of 4-carboxybenzenesulfonamide (2 g; 9.9 mmol; 1 eq) in THF 30 mL) at 0° C. is added 1,1′-carbonyldiimidazole (1.9 g; 11.9 mmol; 1.2 eq) in one portion and the mixture is stirred for 3 h at room temperature. 4-Fluoropiperidine (3.1 g; 29.8 mmol; 3 eq) in THF (3 mL) and DMF (10 mL) is added dropwise and the mixture is stirred at room temperature for 2 h. The solvent is removed under reduced pressure and a saturated solution of NaHCO3 is added to the colourless oil which precipitates. The solid is filtered off, washed with water and dried under vacuum to afford 2.6 g (91%) of the title compound as a white solid. 1H NMR (DMSO-d6) δ 7.87 (d, J=8.3, 2H), 7.58 (d, J=8.3, 2H), 7.37 (br s, 2H), 4.92 (d, J=48.2, 1H), 3.67 (br s, 2H), 3.25 (br s, 2H), 1.87 (m, HPLC (max plot) 99%; Rt 1.77 min. LC/MS: (ES+) 287.0; (ES−) 285.0

reactant | 4-carboxybenzenesulfonamide | 9.9 mmol, 2 g, 1 eq | C(=O)(O)C1=CC=C(C=C1)S(=O)(=O)N | C7H7NO4S
reactant | 1,1′-carbonyldiimidazole | 11.9 mmol, 1.9 g, 1.2 eq | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-Fluoropiperidine | 29.8 mmol, 3.1 g, 3 eq | FC1CCNCC1 | C5H10FN
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-[(4-Fluoropiperidin-1-yl)carbonyl]benzenesulfonamide | 2.6 g, 91% | FC1CCN(CC1)C(=O)C1=CC=C(C=C1)S(=O)(=O)N | C12H15FN2O3S
